US05990156
(4R,5R,6R)-5-Acetylamino-4-hydroxy-6-(phenethylpropylcarbamoyl)-5,6-dihydro-4H-pyran-2-carboxylic acid
2-(1H-Benzotriazol-1-yl)-1,1,3,3-tetramethyluronium tetrafluoroborate (1.42 g) was added to a solution of (2R,3S,4R)-3-acetylamino-4-(tert-butyldiphenylsilanyloxy)-3,4-dihydro-2H-pyran-2,6-dicarboxylic acid, 6-methyl ester (2 g) and N,N-diisopropylethylamine (1.4 ml) in dimethylformamide (5 ml), under nitrogen. To this was added N-phenethylpropylamine (722 mg) and the reaction was stirred at 23° C. for 16 hours. The solvent was removed in vacuo and the residue was partitioned between water and ethyl acetate. The organic extracts were dried over anhydrous sodium sulphate and the solvent was removed in vacuo to give a fawn foam. The foam was chromatographed over silica (Merck 9385, 45 g) using medium pressure (ca 4 psi) and ethyl acetate/cyclohexane (1:2 v/v) as the eluant. The required fractions were combined and the solvent removed in vacuo to give the title compound as a white foam (1.1 g). 1H NMR (250 MHz, CDCl3, rotamers) 7.6--7.1 (15H, m), 6.0+5.95 (1H, 2×m), 5.9--5.8 (1H, 2×d, J=6Hz), 5.2 (1H, 2×d, J=5Hz), 4.6 (1H, 2×d, J=3Hz), 4.0--3.7 (1H, m), 3.8 (3H, 2×s), 3.5--2.9 (4H, m), 2.8+2.5 (2H, 2×m), 2.0 (3H, 2×s), 1.5 --1.2 (2H, m), 1.1 (9H, s), 0.9+0.7 (3H, 2×t, J=7Hz).

reactant | 2-(1H-Benzotriazol-1-yl)-1,1,3,3-tetramethyluronium tetrafluoroborate | 1.42 g | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | (2R,3S,4R)-3-acetylamino-4-(tert-butyldiphenylsilanyloxy)-3,4-dihydro-2H-pyran-2,6-dicarboxylic acid, 6-methyl ester | 2 g | C(C)(=O)N[C@H]1[C@@H](OC(=C[C@H]1O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)C(=O)OC)C(=O)[O-]
reactant | N,N-diisopropylethylamine | 1.4 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | N-phenethylpropylamine | 722 mg | C(CC1=CC=CC=C1)CCCN | C11H17N
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | (4R,5R,6R)-5-Acetylamino-4-hydroxy-6-(phenethylpropylcarbamoyl)-5,6-dihydro-4H-pyran-2-carboxylic acid | 1.1 g | C(C)(=O)N[C@@H]1[C@@H](C=C(O[C@H]1C(NCCCCCC1=CC=CC=C1)=O)C(=O)O)O | C20H26N2O6
